US07045539B2
4-Carboxy-6-methoxy-2-(4-methoxy-phenyl)-benzothiazole (50 mg, 0.159 mmol) was treated with boron tribromide under standard condition to give 4-carboxy-6-hydroxy-2-(4-hydroxy-phenyl)-benzothiazole (34 mg, 74% yield) as a yellow solid. Mass spec: MH+=288. 1H NMR (DMSO-d6): 10.24 (s, 1H), 10.16 (s, 1H), 7.91 (d, 2H), 7.67 (s, 1H), 7.48 (s, 1H), 6.95 (d, 2H).

reactant | 4-Carboxy-6-methoxy-2-(4-methoxy-phenyl)-benzothiazole | 0.159 mmol, 50 mg | C(=O)(O)C1=CC(=CC2=C1N=C(S2)C2=CC=C(C=C2)OC)OC | C16H13NO4S
reactant | boron tribromide | B(Br)(Br)Br | BBr3
product | 4-carboxy-6-hydroxy-2-(4-hydroxy-phenyl)-benzothiazole | 34 mg, 74% yield | C(=O)(O)C1=CC(=CC2=C1N=C(S2)C2=CC=C(C=C2)O)O | C14H9NO4S
